US05504095
To stirred nitric acid (99%; 25 ml) was added 1-ethoxycarbonyl-1,3-dihydro-6-fluoro-2,1-benzisothiazole 2,2-dioxide (2.78 g) in portions at 0° C. The mixture was stirred for 2 hours while allowing it to warm to 10° C. The reaction mixture was poured into ice-water mixture then, the resulting mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate solution. The extract was dried over magnesium sulfate and concentrated in vacuo. The resulting crude product was washed with methanol, to give 5-nitro-l-ethoxycarbonyl-1,3-dihydro-6-fluoro-2,1-benzisothiazole 2,2-dioxide (3.11 g).

reactant | nitric acid | 25 ml | [N+](=O)(O)[O-] | HNO3
reactant | 1-ethoxycarbonyl-1,3-dihydro-6-fluoro-2,1-benzisothiazole 2,2-dioxide | 2.78 g | C(C)OC(=O)N1S(CC2=C1C=C(C=C2)F)(=O)=O | C10H10FNO4S
product | 5-nitro-l-ethoxycarbonyl-1,3-dihydro-6-fluoro-2,1-benzisothiazole 2,2-dioxide | 3.11 g | [N+](=O)([O-])C=1C(=CC2=C(CS(N2C(=O)OCC)(=O)=O)C1)F | C10H9FN2O6S
